US07435837B2
(±)-{[5-fluoro-7-(2-methoxy-5-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.77 g, 48%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-fluoro-7-(2-methoxy-5-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.21 g, 0.45 mmol) and methylamine (0.139 g, 4.5 mmol). mp 197-199° C.

reactant | (±)-[5-fluoro-7-(2-methoxy-5-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.45 mmol, 0.21 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC(=C2)C)OC)F | C24H23FO5S
reactant | methylamine | 4.5 mmol, 0.139 g | CN | CH5N
product | (±)-{[5-fluoro-7-(2-methoxy-5-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C=CC(=C1)C)OC | C18H20FNO2
